US04112095
Preparation of 3-methyl-6-(o-chlorophenyl)-1,2,4-triazolo-[4,3-b]pyridazine
As in Example 36, a mixture of 5.5 g. of 3-chloro-6-(o-chlorophenyl) pyridazine, 3.6 g. of acetylhydrazine in 75 ml. of n-butanol is refluxed for 72 hrs. to give 2.2 g. or product as off-white crystals, m.p. 146°-148° C.

reactant | 3-chloro-6-(o-chlorophenyl) pyridazine | ClC=1N=NC(=CC1)C1=C(C=CC=C1)Cl | C10H6Cl2N2
reactant | acetylhydrazine | C(C)(=O)NN | C2H6N2O
solvent | n-butanol | C(CCC)O | C4H10O
product | 3-methyl-6-(o-chlorophenyl)-1,2,4-triazolo-[4,3-b]pyridazine | CC1=NN=C2N1N=C(C=C2)C2=C(C=CC=C2)Cl | C12H9ClN4
